US08168659B2
(±)-3-Hydroxy-5-(3-trifluoromethoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one
Mix ethanol (120 mL), glacial acetic acid (15 mL), water (3.0 mL, 164.7 mmol), trifluoroacetic acid (6.2 mL, 82.4 mmol), (±)-5-(3-trifluoromethoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-3-(4-trifluoromethyl-phenylamino)-1,5-dihydro-pyrrol-2-one (30.0 g, 54.9 mmol), and 2,5-dimethoxy-tetrahydrofuran (10.7 mL, 82.4 mmol). Warm the solution to 50° C. and stir the reaction mixture for 15-18 hours. Discontinue heating the solution, add water (35 mL), and cool the reaction mixture to −19° C. Filter the slurry and wash the solid with a 1:4 mixture of water-methanol (20 mL). Transfer the filtrate to a separatory funnel and wash with 6% brine (280 mL), then add 6% brine (100 mL), methanol (40 mL), diethyl ether (100 mL), and saturated sodium bicarbonate solution (43 mL) to the organic phase. Separate the layers, add methanol (60 mL) to the organic phase, and concentrate the solution to approximately 1 volume containing (±)-3-hydroxy-5-(3-trifluoromethoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one.

reactant | trifluoroacetic acid | 82.4 mmol, 6.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (±)-5-(3-trifluoromethoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-3-(4-trifluoromethyl-phenylamino)-1,5-dihydro-pyrrol-2-one | 54.9 mmol, 30.0 g | FC(OC=1C=C(C=CC1)C1C=C(C(N1C1=CC=C(C=C1)C(F)(F)F)=O)NC1=CC=C(C=C1)C(F)(F)F)(F)F | C25H15F9N2O2
reactant | 2,5-dimethoxy-tetrahydrofuran | 82.4 mmol, 10.7 mL | COC1OC(CC1)OC | C6H12O3
solvent | water | 35 mL | O | H2O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 120 mL | C(C)O | C2H6O
solvent | water | 164.7 mmol, 3.0 mL | O | H2O
product | (±)-3-Hydroxy-5-(3-trifluoromethoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one | OC=1C(N(C(C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C18H11F6NO3
